US08609680B2
Ethyl(2-methylimidazo[2,1-b][1,3]thiazol-6-yl)acetate hydrobromide (226 g, 0.74 mol) was dissolved in water (350 mL) and the solution was adjusted to pH 7 by addition of potassium carbonate (51.0 g, 0.37 mol). The aqueous solution was extracted with methylene chloride (300 mL) and the organic phase was washed with brine (150 mL), dried over anhydrous magnesium sulfate, filtered and concentrated to give ethyl (2-methylimidazo[2,1-b][1,3]thiazol-6-yl)acetate as a brown oil (151.3 g).

reactant | Ethyl(2-methylimidazo[2,1-b][1,3]thiazol-6-yl)acetate hydrobromide | 0.74 mol, 226 g | Br.C(C)OC(CC=1N=C2SC(=CN2C1)C)=O
reactant | potassium carbonate | 0.37 mol, 51.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 350 mL | O | H2O
product | ethyl (2-methylimidazo[2,1-b][1,3]thiazol-6-yl)acetate | 151.3 g | CC1=CN2C(S1)=NC(=C2)CC(=O)OCC | C10H12N2O2S
